US07060827B2
In like manner to the preparation of N4-(3-chloro-4-trifluoromethoxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidineamine, the reaction of 3-hydroxyaniline with 2-chloro-N4-(2,6-dimethoxypyridin-3-yl)-5-fluoro-4-pyrimidineamine gave N4-(2,6-dimethoxypyridin-3-yl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.98 (bs, 2H), 8.20 (d, 1H, J=5.4 Hz), 7.72 9m, 1H), 6.90 (t, 1H, J=7.8 Hz), 6.81 (m, 2H), 6.42 (m, 2H), 3.88 (s, 3H), 3.86 (s, 3H); LCMS: purity: 94%; MS (m/e): 358 (MH+).

reactant | 3-hydroxyaniline | OC=1C=C(N)C=CC1 | C6H7NO
reactant | 2-chloro-N4-(2,6-dimethoxypyridin-3-yl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC=1C(=NC(=CC1)OC)OC)F | C11H10ClFN4O2
product | N4-(2,6-dimethoxypyridin-3-yl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | COC1=NC(=CC=C1NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O)OC | C17H16FN5O3
